US07696234B2
[2-Fluoro-4-(6-methyl-pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure F from 2-Fluoro-4-(6-methyl-pyridin-2-ylmethoxy)-benzoic acid methyl ester and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) 412.3

reactant | 2-Fluoro-4-(6-methyl-pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCC1=NC(=CC=C1)C)F)=O | C15H14FNO3
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2-Fluoro-4-(6-methyl-pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)OCC1=NC(=CC=C1)C)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C24H30FN3O2
